US09085517B2
N-(azetidin-1-ylsulfonyl)-5-chloro-4-{[(5-chloro-6-cyclopropylpyridin-3-yl)oxy]methyl}-2-fluorobenzamide
To a stirred solution of 5-chloro-4-(((5-chloro-6-cyclopropylpyridin-3-yl)oxy)methyl)-2-fluorobenzoic acid (Preparation 27, 500 mg, 1.4 mmol) in dichloromethane (40 mL) was added HATU (639 mg, 1.68 mmol) and N,N-diisopropylethylamine (0.78 mL, 4.49 mmol), the mixture was left to stir for 15 minutes. Azetidine-1-sulfonamide (Preparation 19, 573 mg, 4.21 mmol) was added and the reaction mixture was stirred at room temperature for 18 hours. The reaction mixture was then washed with saturated aqueous NH4Cl (30 mL) and brine (30 mL). The organic layer was dried over MgSO4 and evaporated under reduced pressure to give the crude product as an orange oil. This was purified by column chromatography on silica (eluent 1:1 heptane/EtOAc) to give the title compound as an off-white solid (450 mg, 67%).

reactant | 5-chloro-4-(((5-chloro-6-cyclopropylpyridin-3-yl)oxy)methyl)-2-fluorobenzoic acid | 1.4 mmol, 500 mg | ClC=1C(=CC(=C(C(=O)O)C1)F)COC=1C=NC(=C(C1)Cl)C1CC1 | C16H12Cl2FNO3
reactant | HATU | 1.68 mmol, 639 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 4.49 mmol, 0.78 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Azetidine-1-sulfonamide | 4.21 mmol, 573 mg | N1(CCC1)S(=O)(=O)N | C3H8N2O2S
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | N-(azetidin-1-ylsulfonyl)-5-chloro-4-{[(5-chloro-6-cyclopropylpyridin-3-yl)oxy]methyl}-2-fluorobenzamide | 450 mg, 67% | N1(CCC1)S(=O)(=O)NC(C1=C(C=C(C(=C1)Cl)COC=1C=NC(=C(C1)Cl)C1CC1)F)=O | C19H18Cl2FN3O4S
